US05273999
A mixture of 0.65 g (1.44 mmol) of 2-[6-(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)hexyloxy]benzenepropanoic acid methyl ester, 2 mL of 3N aqueous lithium hydroxide, and 30 mL of tetrahydrofuran was stirred at room temperature for 24 hr and then concentrated in vacuo. The residue was diluted with water and extracted 3 times with ether (the ether extracts were discarded). The aqueous alkaline solution was acidified with 3N HCl and worked-up with ether in the usual manner. The oily residue was chromatographed on silica gel. Elution with 2:1 toluene-ethyl acetate containing acetic acid afforded 0.5 g (79.3%) of 2-[6-(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)hexyloxy]benzenepropanoic acid as viscous, colorless oil.

reactant | 2-[6-(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)hexyloxy]benzenepropanoic acid methyl ester | 1.44 mmol, 0.65 g | COC(CCC1=C(C=CC=C1)OCCCCCCC1=C(C2=C(C(CCO2)=O)C=C1)CCC)=O | C28H36O5
reactant | lithium hydroxide | 3N, 2 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 2-[6-(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)hexyloxy]benzenepropanoic acid | 0.5 g, 79.3% | O=C1CCOC2=C1C=CC(=C2CCC)CCCCCCOC2=C(C=CC=C2)CCC(=O)O | C27H34O5
